US09334263B2
To a solution of tert-butyl 4-(5-benzoylpyrimidin-2-yl)piperazine-1-carboxylate (1 g, 2.7 mmol) in dioxane (20 mL) was added 4 M HCl-dioxane (20 mL), and the reaction mixture was stirred at room temperature overnight. LCMS showed the reaction was completed. The mixture was directly concentrated to give phenyl(2-(piperazin-1-yl)pyrimidin-5-yl)methanone HCl salt as a yellowish solid (0.95 g, 90%). MS (ES+) C15H16N4O requires: 268, found: 269 [M+H]+.

reactant | tert-butyl 4-(5-benzoylpyrimidin-2-yl)piperazine-1-carboxylate | 2.7 mmol, 1 g | C(C1=CC=CC=C1)(=O)C=1C=NC(=NC1)N1CCN(CC1)C(=O)OC(C)(C)C | C20H24N4O3
reactant | HCl dioxane | 4 M, 20 mL | Cl.O1CCOCC1
solvent | dioxane | 20 mL | O1CCOCC1 | C4H8O2
product | phenyl(2-(piperazin-1-yl)pyrimidin-5-yl)methanone HCl salt | 0.95 g, 90% | Cl.C1(=CC=CC=C1)C(=O)C=1C=NC(=NC1)N1CCNCC1 | InChI=1S/C15H16N4O.ClH/c20-14(12-4-2-1-3-5-12)13-10-17-15(18-11-13)19-8-6-16-7-9-19;/h1-5,10-11,16H,6-9H2;1H
